### PR TITLE
[Merged by Bors] - feat(NumberTheory/JacobiSum/Basic): add lemmas on value of Jacobi sum

### PR DESCRIPTION
**Pull request by MichaelStollBayreuth**
This adds statements that the Jacobi sum of two characters of order dividing `n` is in `ℤ[μ]`, where `μ` is a primitive `n`th root of unity, and more precisely, is of the form `-1 + z*(μ-1)^2` with `z` in `ℤ[μ]`. 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/JacobiSum/Basic.lean [hunk 1]
```diff
@@ -226,3 +228,71 @@ lemma jacobiSum_mul_jacobiSum_inv (h : ringChar F' ≠ ringChar F) {χ φ : MulC
...
+lemma jacobiSum_mem_algebraAdjoin_of_pow_eq_one {n : ℕ} (hn : n ≠ 0) {χ φ : MulChar F R}
+    (hχ : χ ^ n = 1) (hφ : φ ^ n = 1) {μ : R} (hμ : IsPrimitiveRoot μ n) :
+    jacobiSum χ φ ∈ Algebra.adjoin ℤ {μ} :=
+  Subalgebra.sum_mem _ fun _ _ ↦ Subalgebra.mul_mem _
+    (MulChar.apply_mem_algebraAdjoin_of_pow_eq_one hn hχ hμ _)
+    (MulChar.apply_mem_algebraAdjoin_of_pow_eq_one hn hφ hμ _)
+
+open Algebra in
+private
+lemma MulChar.apply_sub_one {n : ℕ} (hn : n ≠ 0) {χ : MulChar F R} {μ : R} (hχ : χ ^ n = 1)
```
Comment (jcommelin) [inline Mathlib/NumberTheory/JacobiSum/Basic.lean:248]:
```suggestion
lemma MulChar.exists_apply_sub_one {n : ℕ} (hn : n ≠ 0) {χ : MulChar F R} {μ : R} (hχ : χ ^ n = 1)
```
or maybe even
```suggestion
lemma MulChar.exists_apply_sub_one_eq_mul_sub_one {n : ℕ} (hn : n ≠ 0) {χ : MulChar F R} {μ : R} (hχ : χ ^ n = 1)
```

File: Mathlib/NumberTheory/JacobiSum/Basic.lean [hunk 2]
```diff
@@ -226,3 +228,71 @@ lemma jacobiSum_mul_jacobiSum_inv (h : ringChar F' ≠ ringChar F) {χ φ : MulC
...
+    (hμ : IsPrimitiveRoot μ n) {x : F} (hx : x ≠ 0) :
+    ∃ z ∈ Algebra.adjoin ℤ {μ}, χ x - 1 = z * (μ - 1) := by
+  obtain ⟨k, _, hk⟩ := exists_apply_eq_pow hn hχ hμ hx
+  refine hk ▸ ⟨(Finset.range k).sum (μ ^ ·), ?_, (geom_sum_mul μ k).symm⟩
+  exact Subalgebra.sum_mem _ fun m _ ↦ Subalgebra.pow_mem _ (self_mem_adjoin_singleton _ μ) _
+
+private
+lemma MulChar.apply_sub_one_mul_apply_sub_one {n : ℕ} (hn : n ≠ 0) {χ ψ : MulChar F R} {μ : R}
```
Comment (jcommelin) [inline Mathlib/NumberTheory/JacobiSum/Basic.lean:256]:
```suggestion
lemma MulChar.exists_apply_sub_one_mul_apply_sub_one {n : ℕ} (hn : n ≠ 0) {χ ψ : MulChar F R} {μ : R}
```

File: Mathlib/NumberTheory/JacobiSum/Basic.lean [hunk 3]
```diff
@@ -226,3 +228,71 @@ lemma jacobiSum_mul_jacobiSum_inv (h : ringChar F' ≠ ringChar F) {χ φ : MulC
...
+  obtain ⟨z₁, hz₁, Hz₁⟩ := MulChar.apply_sub_one hn hχ hμ hx₀
+  obtain ⟨z₂, hz₂, Hz₂⟩ := MulChar.apply_sub_one hn hψ hμ (sub_ne_zero_of_ne hx₁.symm)
+  rewrite [Hz₁, Hz₂, sq]
+  exact ⟨z₁ * z₂, Subalgebra.mul_mem _ hz₁ hz₂, mul_mul_mul_comm ..⟩
+
+/-- If `χ` and `ψ` are multiplicative characters of order dividing `n` on a finite field `F`
+with values in an integral domain `R` and `μ` is a primitive `n`th root of unity in `R`,
+then `J(χ,ψ) = -1 + z*(μ - 1)^2` for some `z ∈ ℤ[μ] ⊆ R`. (We assume that `#F ≡ 1 mod n`.)
+Note that we do not state this as a divisbility in `R`, as this would give a weaker statement. -/
+lemma jacobiSum_eq_neg_one_add [DecidableEq F] {n : ℕ} (hn : 2 < n) {χ ψ : MulChar F R} {μ : R}
```
Comment (jcommelin) [inline Mathlib/NumberTheory/JacobiSum/Basic.lean:272]:
```suggestion
lemma exists_jacobiSum_eq_neg_one_add [DecidableEq F] {n : ℕ} (hn : 2 < n) {χ ψ : MulChar F R} {μ : R}
```

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
